US08563617B2
83.2 Methanesulfonic acid 1-(propane-1-sulfonyl)-azetidin-3-yl ester
To a solution of 1-(propane-1-sulfonyl)-azetidin-3-ol (236 mg, 1.317 mmol) in pyridine was added drop wise methane sulfonyl chloride (205 μl, 2.63 mmol) at 0° C. The mixture was allowed to warm up to room temperature and was stirred for 3 h. Dichloromethane was added. The mixture was subsequently washed with water, saturated NaHCO3 and brine, dried (MgSO4), and filtrated. The solvent was evaporated to obtain 293 mg of crude product which was used without further purification.

reactant | 1-(propane-1-sulfonyl)-azetidin-3-ol | 1.317 mmol, 236 mg | C(CC)S(=O)(=O)N1CC(C1)O | C6H13NO3S
reactant | methane sulfonyl chloride | 2.63 mmol, 205 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | Dichloromethane | ClCCl | CH2Cl2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | Methanesulfonic acid 1-(propane-1-sulfonyl)-azetidin-3-yl ester | 293 mg | C(CC)S(=O)(=O)N1CC(C1)OS(=O)(=O)C | C7H15NO5S2
